US08937072B2
The Preparation of Compound B-115
3.12 g (0.078 mol) of sodium hydroxide was added to a solution of 8.07 g (0.039 mol) of 2,6-dichloro-4-nitroaniline in 60 mL of DMF, followed by addition of 7.80 g (0.039 mol) of 2,4,5,6-tetrafluoroisophthalonitrile under stirring, the mixture was stirred for 5 h after addition at room temperature. After the reaction was over by Thin-Layer Chromatography monitoring, the reaction mixture was poured into water and extracted with ethyl acetate, the organic phase was washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified through silica column (ethyl acetate/petroleum ether (boiling point range 60-90° C.)=1:5, as an eluent) to give 8.08 g of compound B-115 as yellowish solid, m.p. 164-166° C.

reactant | sodium hydroxide | 0.078 mol, 3.12 g | [OH-].[Na+]
reactant | 2,6-dichloro-4-nitroaniline | 0.039 mol, 8.07 g | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | 2,4,5,6-tetrafluoroisophthalonitrile | 0.039 mol, 7.80 g | FC1=C(C#N)C(=C(C(=C1C#N)F)F)F | C8F4N2
reactant | water | O | H2O
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | B-115 | 8.08 g | CN1CCC(=CC1)/C=C/C2=CC=CC3=CC=CC=C32.Cl | InChI=1S/C18H19N.ClH/c1-19-13-11-15(12-14-19)9-10-17-7-4-6-16-5-2-3-8-18(16)17;/h2-11H,12-14H2,1H3;1H/b10-9+;
